US06365584B1
c) 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole
2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-nitro-benzimidazole (5.5 g, 18 mmol) in 150 mL THF/75 mL methanol is hydrogenated in the presence of 1.0 g of 5% Pd/C at ambient temperature and normal pressure. The catalyst is filtered off, the filtrate is evaporated down until not completely dry, diluted with 100 mL acetonitrile and evaporated down to a residual volume of 30 mL. The crystal slurry is cooled and filtered. The crystals are washed with cold acetonitrile and ether.

reactant | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-nitro-benzimidazole | 18 mmol, 5.5 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)[N+](=O)[O-] | C17H14N4O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole | NC1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1 | C17H16N4
